US05324747
A mixture of 2.8 g (5.4 mmol) of 3,4-bis(tetradecyloxy)benzenamine, 8.6 ml (54 mmol) of benzyl bromoacetate, 2.9 g (13.5 mmol) of 1,8-bis(dimethylamino)naphthalene and 0.3 g of sodium iodide in 60 ml of acetonitrile and 10 ml of DMF was stirred under argon for 48 hours. The solvents were removed at reduced pressure and the residue was treated with water and extracted with ethyl acetate. The dried extract was concentrated and purified by HPLC using 10% ethyl acetate-hexane to give 3.2 g (73% yield, mp 52°-52°) of N-[2-oxo-2-(phenylmethoxy)ethyl]-N-[3,4-bis(tetradecyloxy)phenyl]glycine phenylmethyl ester. The structure was confirmed by nmr and mass spectra.

reactant | 3,4-bis(tetradecyloxy)benzenamine | 5.4 mmol, 2.8 g | C(CCCCCCCCCCCCC)OC=1C=C(C=CC1OCCCCCCCCCCCCCC)N | C34H63NO2
reactant | benzyl bromoacetate | 54 mmol, 8.6 ml | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | 1,8-bis(dimethylamino)naphthalene | 13.5 mmol, 2.9 g | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | sodium iodide | 0.3 g | [I-].[Na+]
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-[2-oxo-2-(phenylmethoxy)ethyl]-N-[3,4-bis(tetradecyloxy)phenyl]glycine phenylmethyl ester | 3.2 g, 73% yield | C1(=CC=CC=C1)COC(CN(C1=CC(=C(C=C1)OCCCCCCCCCCCCCC)OCCCCCCCCCCCCCC)CC(OCC1=CC=CC=C1)=O)=O | C52H79NO6
